US05430042
Preparation of 5-Carbomethoxy-6-methyl-2-[[(3,4-dimethoxy-2-pyridinyl)methyl]thio]-1H-benzimidazole
5-Carbomethoxy-6-methyl-2-mercapto-1H-benzimidazole (0.67 g, 0.003 mol) and NaOH (0.12g, 0.003 mol) in H2O (0.6 ml) were dissolved in CH3OH (15 ml). 3,4-dimethoxy-2-chloromethylpyridine hydrochloride, (=0.0036 mol) as a crude material in CH3OH (10 ml) and NaOH (0.144 g, 0.0036 mol) in H2O (0.72 ml) were added. The mixture was heated to reflux and the reflux was continued for 1 hour. CH3OH was evaporated off and the crude material was purified by chromatography on a silica column using CH2Cl2 --CH3OH (98-2) as eluent, giving (1.03 g, 92%) of the pure title compound.

reactant | 5-Carbomethoxy-6-methyl-2-mercapto-1H-benzimidazole | 0.003 mol, 0.67 g | C(=O)(OC)C1=CC2=C(NC(=N2)S)C=C1C | C10H10N2O2S
reactant | NaOH | 0.003 mol, 0.12g | [OH-].[Na+]
reactant | 3,4-dimethoxy-2-chloromethylpyridine hydrochloride | Cl.COC=1C(=NC=CC1OC)CCl
reactant | NaOH | 0.0036 mol, 0.144 g | [OH-].[Na+]
solvent | H2O | 0.6 ml | O | H2O
solvent | CH3OH | 15 ml | CO | CH4O
solvent | CH3OH | 10 ml | CO | CH4O
solvent | H2O | 0.72 ml | O | H2O
product | 5-Carbomethoxy-6-methyl-2-[[(3,4-dimethoxy-2-pyridinyl)methyl]thio]-1H-benzimidazole | 1.03 g, 92% | C(=O)(OC)C1=CC2=C(NC(=N2)SCC2=NC=CC(=C2OC)OC)C=C1C | C18H19N3O4S
